US09108956B2
Step 1. Synthesis of benzyl 2-(5-(4′-((5-cyclobutyl-1,3,4-oxadiazol-2-yl)amino)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate
To a solution of benzyl 2-(5-(4′-amino-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate (132 mg, 0.329 mmol) in DCM (5 ml) at room temperature was added 1,1′-thiocarbonyldipyridin-2(1H)-one (84 mg, 0.362 mmol) and the reaction was stirred at room temperature. 10 min the 1st step was done. To the mixture was added cyclobutanecarbohydrazide (75 mg, 0.658 mmol) and the mixture was stirred at room temperature until the 2nd step was done. To the mixture was added EDC.HCl (189 mg, 0.986 mmol) and the reaction was stirred at room temperature until done. The residue was purified by flash chromatography (10 to 60% EtOAc/Heptane) to give the title compound. MS (ESI) m/z 524.4 (M+1). Retention time 1.56 min (condition A).

reactant | benzyl 2-(5-(4′-amino-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate | 0.329 mmol, 132 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(OC1)CC(=O)OCC1=CC=CC=C1 | C26H27NO3
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 0.362 mmol, 84 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | cyclobutanecarbohydrazide | 0.658 mmol, 75 mg | C1(CCC1)C(=O)NN | C5H10N2O
reactant | EDC.HCl | 0.986 mmol, 189 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | benzyl 2-(5-(4′-((5-cyclobutyl-1,3,4-oxadiazol-2-yl)amino)-[1,1′-biphenyl]-4-yl)tetrahydro-2H-pyran-2-yl)acetate | C1(CCC1)C1=NN=C(O1)NC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(OC1)CC(=O)OCC1=CC=CC=C1 | C32H33N3O4
